US04743614
A solution of methyl (2S)-1-tosyl-2-aziridinecarboxylate (1.04 g) in methanol was added to 1N aqueous sodium hydroxide (4.1 ml) in an ice bath and the mixture was stirred for 50 minutes at the same temperature. To the resulting solution were added L-histidine (2.11 g) and sodium hydroxide (730 mg) and the mixture was refluxed for 1.5 hours. After removal of the solvent in vacuo, the residue was dissolved in water and adjusted to pH 4 with 2N sulfuric acid. The solution was subjected to a column of "Diaion HP-20" (150 ml) and the column was washed with water. The elution was carried out with a mixture of water and methanol (1:1 400 ml). The eluate was evaporated in vacuo and the residue was chromatographed on a silica gel (100 g) column with a mixutre of chloroform, methanol and 28% aqueous ammonia (5:3:1) as an eluent to give (2S)-3-[[(1S)-1-carboxy-2 -(4-imidazolyl)ethyl]amino]-2-tosylaminopropionic acid (485 mg).

reactant | methyl (2S)-1-tosyl-2-aziridinecarboxylate | 1.04 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1[C@@H](C1)C(=O)OC | C11H13NO4S
reactant | sodium hydroxide | 1N, 4.1 ml | [OH-].[Na+]
reactant | L-histidine | 2.11 g | N[C@@H](CC1=CNC=N1)C(=O)O | C6H9N3O2
reactant | sodium hydroxide | 730 mg | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | (2S)-3-[[(1S)-1-carboxy-2 -(4-imidazolyl)ethyl]amino]-2-tosylaminopropionic acid | 485 mg | C(=O)(O)[C@H](CC=1N=CNC1)NC[C@@H](C(=O)O)NS(=O)(=O)C1=CC=C(C)C=C1 | C16H20N4O6S
